US07947738B2
(13-c) 2-Sec-butylpent-4-enal
Dimethyl sulfoxide (18.20 mL, 256.4 mmol) was added dropwise over 15 minutes to a dichloromethane (280 mL) solution of oxalic acid chloride (16.90 g, 133.1 mmol) cooled to −78° C., and the mixture was then stirred at −78° C. for 25 minutes. Subsequently, a dichloromethane (75 mL) solution of 2-sec-butylpent-4-en-1-ol (12.20 g, 85.8 mmol) was added dropwise thereto over 30 minutes, and the mixture was stirred at −78° C. for 1 hour. Triethylamine (60.80 g, 600.8 mmol) was added dropwise thereto over 5 minutes, and the mixture was then stirred at room temperature for 2 hours. The mixture was neutralized with 2 N hydrochloric acid (310 mL). The organic layer was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure to obtain a yellow oil substance as a mixture containing the compound of interest. This compound was used in the next reaction without being further purified.

reactant | Dimethyl sulfoxide | 256.4 mmol, 18.20 mL | CS(=O)C | C2H6OS
reactant | oxalic acid chloride | 133.1 mmol, 16.90 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-sec-butylpent-4-en-1-ol | 85.8 mmol, 12.20 g | C(C)(CC)C(CO)CC=C | C9H18O
reactant | Triethylamine | 600.8 mmol, 60.80 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2 N, 310 mL | Cl | ClH
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 280 mL | ClCCl | CH2Cl2
product | 2-Sec-butylpent-4-enal | C(C)(CC)C(C=O)CC=C | C9H16O
